US07371747B2
trans-6-(Ethoxycarbonyl)spiro[2.4]heptane-5-carboxylic acid (165 mg, 832 mmol) was placed in a 25 mL round bottom flask. After flushing the flask with nitrogen, tetrahydrofuran (1.6 mL) was added and the reaction mixture was cooled to −78° C. 4-Methylmorpholine (0.11 mL, 1.0 mmol) and isobutyl chloroformate (0.12 mL, 0.93 mmol) were added and the reaction mixture was allowed to warm to ambient temperature. After 15 min., the reaction mixture was recooled to −78° C. and sodium borohydride (60 mg, 1.6 mmol) was added. Methanol (1.3 mL) was added and the reaction mixture was warmed to ambient temperature over 2 h and then quenched with saturated aqueous ammonium chloride. The reaction mixture was diluted with saturated aqueous sodium chloride solution and the product was extracted with ethyl acetate. The combined organics were dried over anhydrous sodium sulfate and then concentrated on a rotary evaporator. Chromatography of the residue on silica gel using 35:65 ethyl acetate:hexanes as eluent provided ethyl(5R/S,6R/S)-6-(hydroxymethyl)spiro[2.4]heptane-5-carboxylate as a colorless oil.

reactant | trans-6-(Ethoxycarbonyl)spiro[2.4]heptane-5-carboxylic acid | 832 mmol, 165 mg | C(C)OC(=O)[C@H]1[C@@H](CC2(CC2)C1)C(=O)O | C11H16O4
reactant | 4-Methylmorpholine | 1.0 mmol, 0.11 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.93 mmol, 0.12 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 1.6 mmol, 60 mg | [BH4-].[Na+]
solvent | Methanol | 1.3 mL | CO | CH4O
product | ethyl(5R/S,6R/S)-6-(hydroxymethyl)spiro[2.4]heptane-5-carboxylate | OCC1C(CC2(CC2)C1)C(=O)OCC | C11H18O3
